US07632851B2
a) (4-Bromo-phenyl)-methyl-carbamic acid tert-butyl ester
0.263 mL (1.1 eq.) iodomethane are added dropwise at room temperature to a stirred suspension of 1.1 g (4 mmol) (4-bromo-phenyl)-carbamic acid tert-butyl ester and 2 g (1.6 eq.) cesium carbonate in 15 mL DMF. After stirring for an additional 18 hours, the reaction mixture is extracted with water/ethyl acetate and the combined organic phases are washed with brine, dried over magnesium sulfate and evaporated to yield the desired product as a colorless oil, which is used without further purification.

reactant | iodomethane | 0.263 mL, 1.1 eq. | IC | CH3I
reactant | (4-bromo-phenyl)-carbamic acid tert-butyl ester | 4 mmol, 1.1 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)Br)=O | C11H14BrNO2
reactant | cesium carbonate | 2 g, 1.6 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (4-Bromo-phenyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)Br)=O | C12H16BrNO2
